US04281012
225 ml of a filtered solution of 2.5 M/liter of vinyl magnesium chloride in tetrahydrofuran were added dropwise with stirring at -10° C. to a mixture of 58 g of 5-chloro-2-hydroxy-benzophenone and 900 ml of anhydrous ether and the mixture was stirred at room temperature for 16 hours and was refluxed for 3 hours. The mixture was iced and 600 ml of aqueous 10% ammonium chloride solution and 50 ml of concentrated hydrochloric acid were added thereto dropwise. The decanted organic phase was washed twice with 100 ml of water, was dried over magnesium sulfate, filtered and evaporated to dryness under reduced pressure. The oil residue was chromatographed over silica gel and was eluted with methylene chloride to obtain 34.4 g of 5-chloro-2-hydroxy-α-phenyl-α-ethenyl-benzene-methanol.

reactant | vinyl magnesium chloride | C(=C)[Mg]Cl
reactant | 5-chloro-2-hydroxy-benzophenone | 58 g | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)O | C13H9ClO2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | 900 ml | CCOCC | C4H10O
product | 5-chloro-2-hydroxy-α-phenyl-α-ethenyl-benzene-methanol | 34.4 g | ClC=1C=CC(=C(C1)C(O)(C=C)C1=CC=CC=C1)O | C15H13ClO2
